US04558060
3-Methyl-6-(2-dipropylaminoethyl)-benzoxazolinone
2.02 g (0.02 mol) of N,N-dipropylamine and 2.56 g (0.01 mol) of 3-methyl-6-(2-bromoethyl)-benzoxazolinone, dissolved beforehand in 30 cm3 of dioxane, were introduced into a 100 cm3 flask with a ground glass neck, fitted with a reflux condenser, and the mixture was then heated under reflux for seventy-two hours, with stirring. After cooling, the reaction mixture was filtered and the filtrate was then evaporated in a water-bath, in vacuo. The residue was then taken up in 30 cm3 of diethylether, the solution was filtered, the filtrate was washed with water and dried over calcium chloride, and a stream of hydrogen chloride was then bubbled. The precipitate formed was filtered off and then recrystallised from ethylacetate, and this gave 2.23 g of the title compound, in the form of the hydrochloride, having a melting point of 150°-152° C.

reactant | N,N-dipropylamine | 0.02 mol, 2.02 g | C(CC)NCCC | C6H15N
reactant | 3-methyl-6-(2-bromoethyl)-benzoxazolinone | 0.01 mol, 2.56 g | CN1C(OC2=C1C=CC(=C2)CCBr)=O | C10H10BrNO2
solvent | dioxane | 30 cm3 | O1CCOCC1 | C4H8O2
product | 3-Methyl-6-(2-dipropylaminoethyl)-benzoxazolinone | CN1C(OC2=C1C=CC(=C2)CCN(CCC)CCC)=O | C16H24N2O2
